US08357689B2
1-(1-methyl-1H-imidazol-2-yl)-2,3-dihydro-1H-indol-5-ylamine
170 mg 1-(1-methyl-1H-imidazol-2-yl)-5-nitro-2,3-dihydro-1H-indole are dissolved in 20 ml of tetrahydrofuran. To this are added 20 mg palladium on charcoal (10%) and the mixture is hydrogenated for 1 hour at ambient temperature. Then the catalyst is filtered off and the solvent is eliminated in vacuo. The crude product is extracted from diethyl ether.

reactant | 1-(1-methyl-1H-imidazol-2-yl)-5-nitro-2,3-dihydro-1H-indole | 170 mg | CN1C(=NC=C1)N1CCC2=CC(=CC=C12)[N+](=O)[O-] | C12H12N4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 1-(1-methyl-1H-imidazol-2-yl)-2,3-dihydro-1H-indol-5-ylamine | CN1C(=NC=C1)N1CCC2=CC(=CC=C12)N | C12H14N4
